US04859684
A mixture of 9 parts of 4-[1-(1H-imidazol-1-yl)heptyl]-1,2-benzenediamine, 5 parts of 4-fluorobenzoic acid and 100 parts of polyphosphoric acid was stirred for 2 hours at 100° C. After cooling, the reaction mixture was poured into ice water and treated with ammonium hydroxide. The product was extracted three times with 120 parts of trichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 1,1'-oxybisethane. The product was filtered off and dried, yielding 5.8 parts (47%) of 2-(4-fluorophenyl)-5-[1-(1H-imidazol-1-yl)heptyl]-1H-benzimidazole; mp. 121.9° C. (compound 39).

reactant | 4-[1-(1H-imidazol-1-yl)heptyl]-1,2-benzenediamine | N1(C=NC=C1)C(CCCCCC)C=1C=C(C(=CC1)N)N | C16H24N4
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-(4-fluorophenyl)-5-[1-(1H-imidazol-1-yl)heptyl]-1H-benzimidazole | 47% | FC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(CCCCCC)N2C=NC=C2 | C23H25FN4
